US08377970B2
2-chloro-N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-5-(methylsulfonyl)benzamide
2-chloro-N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-5-(methylthio)benzamide (40 mg, 0.08 mmols) was dissolved in a 5 mL mixture of H2O and acetone (1:1) at 0° C. and added Oxone (108 mg, 0.16 mmols). The mixture was stirred at ambient temperature for one hour. The reaction mixture was filtered to remove oxone and filtrate was worked up (AcOEt: H2O). Title compound (38 mg) was obtained as a white solid. M.P. 132-135° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.97 (s, 1H), 8.19 (d, J 2.2, 1H), 8.04 (dd, J 8.4, 2.2, 1H), 7.89 (d, J 8.6, 3H), 7.65 (d, J 8.8, 2H), 6.62 (s, 1H), 3.30 (s, 3H), 1.97-1.81 (m, 1H), 0.99-0.94 (m, 2H), 0.86-0.79 (m, 2H). MS (m/z): 481.85 [M−H]−.

reactant | 2-chloro-N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-5-(methylthio)benzamide | 0.08 mmols, 40 mg | ClC1=C(C(=O)NC2=CC=C(C=C2)N2N=C(C=C2C2CC2)C(F)(F)F)C=C(C=C1)SC | C21H17ClF3N3OS
reactant | Oxone | 0.16 mmols, 108 mg | OOS(=O)[O-].[K+]
reactant | acetone | CC(=O)C | C3H6O
solvent | H2O | O | H2O
product | 2-chloro-N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-5-(methylsulfonyl)benzamide | 38 mg | ClC1=C(C(=O)NC2=CC=C(C=C2)N2N=C(C=C2C2CC2)C(F)(F)F)C=C(C=C1)S(=O)(=O)C | C21H17ClF3N3O3S
